US05612286
1. 2-Amino-4-methoxy-6-trifluoromethylpyrimidine
2-Amino-4-ethoxy-6-trifluoromethylpyrimidine of melting point 114°-116° C. was obtained in a similar manner by reacting 2-amino-4-chloro-6-trifluoromethylpyrimidine with sodium methylate in ethanol.

reactant | 2-amino-4-chloro-6-trifluoromethylpyrimidine | NC1=NC(=CC(=N1)Cl)C(F)(F)F | C5H3ClF3N3
reactant | sodium methylate | C[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-methoxy-6-trifluoromethylpyrimidine | NC1=NC(=CC(=N1)OC)C(F)(F)F | C6H6F3N3O
